US07291631B2
Using General Procedure B: Reaction of (3-aminopropyl)-carbamic acid tert-butyl ester (Houssin, R. et al. Synthesis 1988, 3, 259-261), 3-methylpyridine-2-carboxaldehyde and NaBH(OAc)3 gave {3-[Bis-(3-methyl-pyridin-2-ylmethyl)-amino]-propyl}-carbamic acid tert-butyl ester as a light brown solid (0.17 g, 55%). 1H NMR (CDCl3) δ 1.43 (s, 9H), 1.70 (m, 2H), 2.16 (s, 6H), 2.64 (t, 2H, J=7.5 Hz), 3.02 (m, 2H), 3.74 (s, 4H), 6.02 (br, 1H(NH)), 7.07 (m, 2H), 7.38 (d, 2H, J=6.0 Hz), 8.40 (d, 2H, J=2.8 Hz). Deprotection with TFA following General Procedure F gave N,N-Bis-(3-methyl-pyridin-2-ylmethyl)-propane-1,3-diamine (0.14 g, excess) was isolated, which was used immediately in the next reaction.

reactant | (3-aminopropyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCN)=O | C8H18N2O2
reactant | 3-methylpyridine-2-carboxaldehyde | CC=1C(=NC=CC1)C=O | C7H7NO
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | {3-[Bis-(3-methyl-pyridin-2-ylmethyl)-amino]-propyl}-carbamic acid tert-butyl ester | 0.17 g, 55% | C(C)(C)(C)OC(NCCCN(CC1=NC=CC=C1C)CC1=NC=CC=C1C)=O | C22H32N4O2
